US07262185B2
7-[4-(2-butoxyethoxy)phenyl]-1-isobutyl-2,3-dihydro-1H-1-benzazepine-4-carboxylic acid (2 g) was dissolved in tetrahydrofuran (25 ml), and to the solution were added thionyl chloride (0.5 ml) and N,N-dimethylformamide (catalytic amount) at room temperature under ice-cooling, and the mixture was stirred for 1.5 hours. The solvent was distilled off, the residue was dissolved in tetrahydrofuran (50 ml), and the solution was added dropwise to a solution of p-aminophenol (0.55 g) and triethylamine (2 ml) in tetrahydrofuran (25 ml) under ice-cooling. The mixture was stirred for 3 hours under nitrogen atmosphere at room temperature, and the solvent was distilled off. To the residue was added water and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, and dried over anhydrous magnesium sulfate, and then, the solvent was distilled off. The residue was purified by silica gel column chromatography (elution solvent: ethyl acetate/hexane), to give 7-[4-(2-butoxyethoxy)phenyl]-N-(4-hydroxyphenyl)-1-isobutyl-2,3-dihydro-1H-1-benzazepine-4-carboxamide (2 g) as pale yellow crystals.

reactant | 7-[4-(2-butoxyethoxy)phenyl]-1-isobutyl-2,3-dihydro-1H-1-benzazepine-4-carboxylic acid | 2 g | C(CCC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCN2CC(C)C)C(=O)O)C1 | C27H35NO4
reactant | thionyl chloride | 0.5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 7-[4-(2-butoxyethoxy)phenyl]-N-(4-hydroxyphenyl)-1-isobutyl-2,3-dihydro-1H-1-benzazepine-4-carboxamide | 2 g | C(CCC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCN2CC(C)C)C(=O)NC2=CC=C(C=C2)O)C1 | C33H40N2O4
